US05968958
Step 9: 5-Amino-6-(4-ethyl-2-thiazolylthio)-3H-isobenzofuran-1-one
A mixture of 6-(4-ethyl-2-thiazolylthio)-5-nitro-3H-isobenzofuran-1-one (750 mg, 2.33 mmol), Fe powder (600 mg, 10.7 mmol) and NH4Cl (150 mg, 2.8 mmol) in 45 mL of EtOH:H2O (2:1) was refluxed for 1.5 h. The hot mixture was filtered through celite and the celite was washed several times with hot EtOH:THF (4:1). Solvent was evaporated in vacuo and the residue was partitioned between H2O and EtOAc. The organic layer was separated, washed with brine, dried over MgSO4 and concentrated. The solid title compound so obtained was used without purification in the next step.

reactant | 6-(4-ethyl-2-thiazolylthio)-5-nitro-3H-isobenzofuran-1-one | 2.33 mmol, 750 mg | C(C)C=1N=C(SC1)SC1=C(C=C2COC(C2=C1)=O)[N+](=O)[O-] | C13H10N2O4S2
reactant | NH4Cl | 2.8 mmol, 150 mg | [NH4+].[Cl-]
solvent | EtOH H2O | 45 mL | CCO.O
catalyst | Fe | 10.7 mmol, 600 mg | [Fe] | Fe
product | 5-Amino-6-(4-ethyl-2-thiazolylthio)-3H-isobenzofuran-1-one | NC=1C=C2COC(C2=CC1SC=1SC=C(N1)CC)=O | C13H12N2O2S2
